US08389511B2
tert-Butyl (2R,5R)-5-[[(benzyloxy)carbonyl](isopropyl)amino]-2-(2-{[tert-butyl(diphenyl)silyl]oxy}-ethyl)piperidine-1-carboxylate
To a solution of tert-butyl (2R,5R)-5-[[(benzyloxy)carbonyl](isopropyl)amino]-2-(hydroxy-ethyl)piperidine-1-carboxylate (2.93 g) in methylene chloride (35 ml) were added tert-butyl diphenyl-chlorosilane (2.30 g) and imidazole (569 mg), and the mixture was stirred at room temperature for 4 hours. To the mixture was added a saturated aqueous sodium hydrogen carbonate solution (10 ml), and the mixture was extracted with chloroform (100 ml). The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (the developing solvent: hexane/ethyl acetate=12/1) to give the title compound (4.42 g).

reactant | tert-butyl (2R,5R)-5-[[(benzyloxy)carbonyl](isopropyl)amino]-2-(hydroxy-ethyl)piperidine-1-carboxylate | 2.93 g | C(C1=CC=CC=C1)OC(=O)N([C@@H]1CC[C@@H](N(C1)C(=O)OC(C)(C)C)CCO)C(C)C | C23H36N2O5
reactant | tert-butyl diphenyl-chlorosilane | 2.30 g | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | imidazole | 569 mg | N1C=NC=C1 | C3H4N2
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl (2R,5R)-5-[[(benzyloxy)carbonyl](isopropyl)amino]-2-(2-{[tert-butyl(diphenyl)silyl]oxy}-ethyl)piperidine-1-carboxylate | 4.42 g | C(C1=CC=CC=C1)OC(=O)N([C@@H]1CC[C@@H](N(C1)C(=O)OC(C)(C)C)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C(C)C | C39H54N2O5Si
